US03981905
Ethyl 2-[4-(4-fluorophenoxy)phenyl]-2-methylmalonate (19.6 g.) was refluxed for 1 hour with a mixture of 2.5N aqueous sodium hydroxide (114 ml.) and ethanol (57 ml.). After cooling and acidification with 5N hydrochloric acid, the resulting oil was extracted into ether. The extract was washed with water, dried and the ether distilled. The residue of crude 2-[4-(4-fluorophenoxy)phenyl]-2-methylmalonic acid was decarboxylated by heating for 20 minutes at 220°C. The product was recrystallised several times from benzene/petroleum ether b.p. 62°-68°C. to give 2-[4-(4-fluorophenoxy)phenyl]propionic acid, m.p. 84°-86°C.

reactant | Ethyl 2-[4-(4-fluorophenoxy)phenyl]-2-methylmalonate | 19.6 g | FC1=CC=C(OC2=CC=C(C=C2)C(C(=O)OCC)(C(=O)[O-])C)C=C1
reactant | sodium hydroxide | 2.5N, 114 ml | [OH-].[Na+]
solvent | ethanol | 57 ml | C(C)O | C2H6O
product | 2-[4-(4-fluorophenoxy)phenyl]propionic acid | FC1=CC=C(OC2=CC=C(C=C2)C(C(=O)O)C)C=C1 | C15H13FO3
